* C:\users\thatiannecarvalho\My Documents\Faculdade\9ºSemestre\MI - PDS\pbl3\DAC10b.asc
R1 N002 H 500
R2 N002 H 1k
R3 N003 N002 1.27k
V5 N001 0 12
XU3 0 N002 N001 N005 N003 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R4 Vout N004 1k
XU1 0 N004 N001 0 Vout level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R5 N004 N003 1k
V4 N005 0 -12
R6 N002 H 2k
R7 N002 H 4k
R8 N002 H 8k
R9 N002 H 16k
R10 N002 H 32k
R11 N002 H 64k
V1 H 0 1
.tran 1.5s
.lib UniversalOpamps2.sub
.backanno
.end
